US04985444
A mixture of 3-(2-bromoacetyl)-2-phenylpyrazolo[1,5-a]pyridine (1.87 g), 2-amino-5-methyl-1,3,4-thiadiazole (0.68 g) and 1-butanol (19 ml) was refluxed for 5 hours and 20 minutes. The reaction mixture was evaporated in vacuo and the residue was taken up methylene chloride (40 ml). The methylene chloride solution was washed with an aqueous solution of potassium carbonate and dried over magnesium sulfate. The solvent was removed and the residue was subjected to chromatography on silica gel (25 g) with chloroform as an eluent. The fractions containing the objective compound were combined and evaporated in vacuo to give 3-(2-methylimidazo[2,1-b][1,3,4]thiadiazol-6-yl)-2-phenylpyrazolo[1,5-a]pyridine (1.06 g), which was recrystallized from acetone gave crystals (0.69 g).

reactant | 3-(2-bromoacetyl)-2-phenylpyrazolo[1,5-a]pyridine | 1.87 g | BrCC(=O)C=1C(=NN2C1C=CC=C2)C2=CC=CC=C2 | C15H11BrN2O
reactant | 2-amino-5-methyl-1,3,4-thiadiazole | 0.68 g | NC=1SC(=NN1)C | C3H5N3S
solvent | 1-butanol | 19 ml | C(CCC)O | C4H10O
product | 3-(2-methylimidazo[2,1-b][1,3,4]thiadiazol-6-yl)-2-phenylpyrazolo[1,5-a]pyridine | 1.06 g | CC1=NN2C(S1)=NC(=C2)C=2C(=NN1C2C=CC=C1)C1=CC=CC=C1 | C18H13N5S
